Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Malaise, fatigue, sore throat
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with history of type 1 diabetes, who 
presented
with bilateral leg swelling and neck LAD/swelling. 

Patient reports that she has had fatigue and periorbital 
swelling
for 1 week, as well as on/off fevers (subjective) with
diaphoresis. she was initially seen at ___, where per
patient report monospot was sent (ultimately returned negative
but they still think mono is possible). On further questioning,
she thinks they may have also sent a strep test that was
negative. She was referred from ___ to ___ ED ___
with the symptoms of fatigue and sore throat after a UA showed
ketones; ED evaluation was not concerning for DKA, but she was
found to have a possible UTI and discharged with Bactrim x 5day
course. Pt reports she had a Tmax of 100.6 during her ED course. 


Since last ED discharge, patient has also developed bilateral
foot/leg swelling, as well as swelling/lymphadenopathy under the
jaw and at the neck, which is nontender. She continues to have
periorbital swelling that is worse in the mornings. she thinks
the RLE may be more swollen than LLE. she has been having
intermittent posterior HA, for which she took some Tylenol (pt
clear that she did not exceed max dosing) but then stopped. She
also reports dyspnea on exertion that is new for her; no cough 
or
sputum. No dyspnea at rest or orthopnea. 

She presented to ED for further evaluation given her ongoing and
worsening symptoms. 

In the ED:
Initial vital signs were notable for:  T99, 107, 133/85, 20, 99%
RA 

Exam notable for: "posterior oral pharyngeal erythema without
tonsillar exudates, no significant eyelid or neck swelling
however patient with lymphadenopathy bilaterally at the angle of
mandible, also with scattered posterior cervical 
lymphadenopathy,
very little eye swelling however this physician was involved in
discharging patient during her prior visit and did indeed 
observe
minor swelling of the periorbital region bilaterally at that
time"
 
Past Medical History:
Type 1 diabetes mellitus
 
Social History:
___
Family History:
Sister with Type 1 diabetes mellitus
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VITALS: 98.9PO, 105 / 71, 102, 18, 97 ra
GENERAL: young woman in bed, Alert and interactive. In no acute
distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
bl periorbital edema. OP notable for white tonsillar exudates. 
NECK: nontender LAD most notable in submandibular, anterior
cervical chains.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK:  No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. did not clearly appreciate any
HSM. 
EXTREMITIES: non pitting soft tissue edema of bl ___, relatively
symmetric. DP 2+ bl
SKIN: Warm. No rash.
NEUROLOGIC: no facial droop, PERLL, EOMI. ___ strength
throughout. Normal sensation. AOx3.

=======================
DISCHARGE PHYSICAL EXAM
=======================
VITALS: ___ 0731 Temp: 99.3 PO BP: 103/66 R Lying HR: 107
RR: 18 O2 sat: 95% O2 delivery: Ra FSBG: 230 
GENERAL: WDWN female in NAD. Lying comfortably in bed. 
HEENT: NCAT. EOMI. Sclera anicteric and without injection. ___
periorbital edema without signs of infection. OP notable for
white tonsillar exudates. 
NECK: nontender LAD most notable in submandibular, anterior
cervical chains.  
CARDIAC: RRR with normal S1 and S2. No murmurs/rubs/gallops.
LUNGS: Normal respiratory effort. CTAB without wheezes, rales or
rhonchi. 
ABDOMEN: Normal bowels sounds, soft, non distended, non-tender 
to
deep palpation in all four quadrants. No HSM appreciated. 
EXTREMITIES: Warm, non pitting soft tissue edema of BLE,
relatively symmetric. DP 2+ bl
SKIN: Warm, dry. No rash.
NEUROLOGIC: Alert and interactive. CN II-XII grossly intact.
 
Pertinent Results:
==============
ADMISSION LABS
==============

___ 09:00PM BLOOD WBC-9.5 RBC-4.48 Hgb-12.3 Hct-37.9 MCV-85 
MCH-27.5 MCHC-32.5 RDW-13.2 RDWSD-41.2 Plt ___
___ 06:11AM BLOOD WBC-10.4* RBC-4.37 Hgb-12.1 Hct-37.4 
MCV-86 MCH-27.7 MCHC-32.4 RDW-13.3 RDWSD-41.7 Plt ___
___ 09:00PM BLOOD Plt Smr-LOW* Plt ___
___ 09:00PM BLOOD Glucose-230* UreaN-7 Creat-0.7 Na-138 
K-3.7 Cl-101 HCO3-24 AnGap-13
___ 09:00PM BLOOD ALT-491* AST-362* AlkPhos-175* 
TotBili-0.3
___ 09:00PM BLOOD Lipase-13
___ 09:00PM BLOOD cTropnT-<0.01
___ 11:45PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-POS* 
IgM HAV-PND
___ 09:00PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-POS* 
IgM HAV-PND
___ 11:45PM BLOOD HIV Ab-NEG
___ 09:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 11:45PM BLOOD HCV Ab-NEG
___ 01:02PM BLOOD ANAPLASMA PHAGOCYTOPHILUM (HUMAN 
GRANULOCYTIC EHRLICHIA AGENT) IGG/IGM-PND
___ 09:25PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-1000* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 
Leuks-NEG
___ 09:25PM URINE Hours-RANDOM Creat-52 TotProt-17 
Prot/Cr-0.3*
___ 09:25PM URINE UCG-NEGATIVE
___ 09:25PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

==============
DISCHARGE LABS
==============

___ 07:16AM BLOOD WBC-12.4* RBC-4.69 Hgb-13.3 Hct-40.3 
MCV-86 MCH-28.4 MCHC-33.0 RDW-14.1 RDWSD-43.2 Plt ___
___ 07:16AM BLOOD Glucose-250* UreaN-10 Creat-0.7 Na-137 
K-5.0 Cl-102 HCO3-22 AnGap-13
___ 07:16AM BLOOD ALT-415* AST-265* LD(LDH)-539* 
AlkPhos-224* TotBili-0.3
___ 07:16AM BLOOD Calcium-8.8 Phos-3.5 Mg-1.8

___ 1:02 pm Blood (LYME)

   Lyme IgG (Pending): 

   Lyme IgM (Pending): 

___ 6:47 am THROAT FOR STREP

   R/O Beta Strep Group A (Pending): 

___ 6:11 am Blood (EBV)

   ___ VIRUS VCA-IgG AB (Pending): 

   ___ VIRUS EBNA IgG AB (Pending): 

   ___ VIRUS VCA-IgM AB (Pending): 

___ 6:11 am Blood (CMV AB)

   CMV IgG ANTIBODY (Pending): 

   CMV IgM ANTIBODY (Pending): 

___ 6:11 am SEROLOGY/BLOOD

  **FINAL REPORT ___

   MONOSPOT (Final ___: 
      POSITIVE by Latex Agglutination. 
     

___ 6:11 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

___ 9:25 pm URINE

   **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      GRAM POSITIVE BACTERIA.    10,000-100,000 CFU/mL. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 

====================
IMAGING AND REPORTS
====================

CXR ___
 
IMPRESSION: 
 
No acute cardiopulmonary process.
 

RUQUS ___
IMPRESSION: 
 
Slightly echogenic liver with no focal lesions identified.  
Otherwise, normal
ultrasound.

CTA HEAD AND NECK ___
IMPRESSION:

1. No evidence for an acute intracranial abnormality.
2. Normal neck CTA.
3. Normal-variant fenestration of the mid basilar artery.  
Otherwise, normal
head CTA.
4. The cavernous sinuses are not optimally assessed in the 
arterial phase of
enhancement but appear grossly unremarkable and symmetric.
5. Diffuse cervical and supraclavicular lymphadenopathy, as well 
as prominent
adenoids and tonsils.  This may be reactive in the setting of a 
viral
infection, versus lymphoproliferative.
6. Periapical lucency of left mandibular ___ tooth 19.  Please 
correlate with
dental exam regarding any associated active inflammation.
 
RECOMMENDATION(S):  Clinical workup and clinical ___ of 
cervical and
supraclavicular lymphadenopathy.  If resolution of 
lymphadenopathy cannot be
ascertained on clinical grounds, then sonographic ___ 
could be
considered for reassessment.

 
Brief Hospital Course:
___ female with history of type 1 diabetes, who 
presented with symptoms of fever, periorbital edema and cervical 
lymphadenopathy, found to also have a transaminitis. Many tests 
were sent evaluating for bacterial, viral and tick borne 
illnesses. Monospot returned positive, which provided reasonable 
explanation for her symptoms. She remained stable and the 
decision was made to continue supportive measures at home.

ACUTE ISSUES:
=============
# Fever
# Fatigue
# Lymphadenopathy
# Pharyngitis
Presented with one week of subjective fevers, fatigue, nontender 
LAD, perioribital edema, and pharyngitis with tonsillar exudates 
on exam. Initial vitals showed Temp 99, HR in the 100s. Labs 
were notable for mild thrombocytopenia, elevated LFTs to the 
400s, and positive Hepatitis A Ab. There was concern for 
mononucleosis vs hepatitis A infection vs EBV/CMV vs tick borne 
vs Le___'s disease. Further testing reviewed negative HIV, 
HBV, HCV, and influenza. CTA head and neck showed no signs of 
cavernous sinus thrombosis or infectious thrombophlebitis. EBV, 
CMV, rapid strep, blood/urine cultures, lyme Ab, and ehrlichia 
Ab were sent but pending at time of discharge. She did have a 
positive Monospot. Abdominal ultrasound was negative for 
splenomegaly. She was discharged with instructions for 
symptomatic treatment and was told to f/u with her PCP. She will 
need repeat liver enzymes within the next week. She will be 
contacted if any pending tests results unexpectedly return 
positive. Patient was informed she likely has mono.

# Transaminitis
Initial labs notable for LFTs in the 400s. There was concern for 
viral infection, particularly hepatitis A vs mono, less likely 
tick borne illness. She had no other risk factors, including 
heavy acetaminophen use, alcohol, or herbal medications. 
Abdominal ultrasound showed no hepatosplenomegaly. EBV/CMV and 
Hepatitis A IgM were pending at time of discharge, with 
hepatitis A IgM ultimately returning negative, suggestive of 
prior infection. Monospot was positive. She should follow up 
with her PCP and avoid contact sports in the event that she 
develops splenomegaly. She will need repeat liver enzymes in 1 
week.

# ___ edema
Described one week of periorbital edema without signs of 
infection in the setting of systemic illness. UA inconsistent 
with nephrotic syndrome. No new medications to suggest drug 
induced. CTA head and neck was negative for cavernous sinus 
thrombosis or infectious thrombophlebitis. She should follow up 
with her PCP for ___.

# c/f UTI
She recently presented to the ED, where she was started on 
Bactrim x 5 days given inflammatory urinalysis. Culture returned 
with mixed flora and she was otherwise asymptomatic so the 
Bactrim was stopped on admission (day 3 of the course).

TRANSITIONAL ISSUES:
==================
[ ] Follow up EBV/CMV serologies, rapid strep --> CMV negative, 
strep negative, EBV pending.
[ ] Follow up blood/urine cultures --> negative
[ ] Follow up lyme Ab, ehrlichia Ab --> negative
[ ] Follow up Hepatitis A IgM --> negative (indicative of prior 
infection)
[ ] PCP ___ for ___ and type I diabetes mellitus
[ ] Repeat liver enzymes in 1 week 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. NPH 35 Units Breakfast
NPH 15 Units Bedtime
Insulin SC Sliding Scale using aspart Insulin
2. Sulfameth/Trimethoprim DS 2 TAB PO BID 

 
Discharge Medications:
1.  NPH 35 Units Breakfast
NPH 15 Units Bedtime 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Primary:
Infectious mononucleosis 

#Secondary:
Periorbital edema 
Transaminitis 
Fatigue
Type I diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___!

Why you were admitted to the hospital:
- You were having fatigue, sore throat, eye swelling, and leg 
swelling 

What happened while you were here:
- Several tests were sent to evaluate for viral and tick borne 
illnesses
- Imaging of your neck and head showed no signs of infection or 
clot 
- Labs showed inflammation in your liver
- An ultrasound of your abdomen did not show any concerning 
findings

What you should do once you return home:
- Continue taking your medications as prescribed
- Continue using supportive measures like fluids, acetaminophen 
(less than 2g daily), and ibuprofen as needed
- You should follow up with your primary care provider for 
further management within the next ___ days. You will need to 
have your liver enzymes rechecked.
- Several tests are still pending. You will be contacted about 
any positive results. 

Sincerely, 
Your ___ Care Team 
 
Followup Instructions:
___